US05206149
1.78 g (11.3 mmol) of said ethyl chloromethylimidate hydrochloride, 1.22 g (7.55 mmol) of 4-aminoresorcinol hydrochloride, and 20 ml of ethanol were introduced into a two-necked flask provided with a Dimroth condenser, and the mixture was refluxed with heat in argon atmosphere for a whole day and night. After completion of the reaction and cooling, the crystal was filtered and washed with hexane, then the object was vacuum dried. There was obtained 0.40 g (2.33 mmol) of 2-chloromethyl-6-hydroxybenzoxazole, and the yield of the reaction was 30.9%.

reactant | 4-aminoresorcinol hydrochloride | 7.55 mmol, 1.22 g | Cl.NC1=C(C=C(O)C=C1)O
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 2-chloromethyl-6-hydroxybenzoxazole | 2.33 mmol, 0.40 g | ClCC=1OC2=C(N1)C=CC(=C2)O | C8H6ClNO2
